US04460600
To a stirred solution of 0.03 mole of trans-(±)-1-[6-methylamino-1,4-dioxaspiro[4.5]dec-7-yl]pyrrolidine in 200 ml of diethyl ether and 0.036 mole of triethylamine, there is added a solution of 0.036 mole of 3,4-dichlorophenylacetyl chloride in 300 ml of diethyl ether over 30 minutes under nitrogen. After two hours the mixture is filtered and the solid washed with diethyl ether. The combined ethereal layers were washed with water, 10% sodium hydroxide in water solution, water, brine, dried over magnesium sulfate and concentrated in vacuo. The residue is treated with a diethyl ether solution of hydrogen chloride and the resultant precipitate is recrystallized from a methanol/ethyl acetate mixture to give trans-(±)-3,4-dichloro-N-methyl-N-[7-(1-pyrrolidinyl)-1,4-dioxaspiro[4.5]-dec-6-y]benzeneacetamide, monohydrochloride.

reactant | trans-(±)-1-[6-methylamino-1,4-dioxaspiro[4.5]dec-7-yl]pyrrolidine | 0.03 mole | CN[C@@H]1C2(OCCO2)CCC[C@H]1N1CCCC1 | C13H24N2O2
reactant | triethylamine | 0.036 mole | C(C)N(CC)CC | C6H15N
reactant | 3,4-dichlorophenylacetyl chloride | 0.036 mole | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | trans-(±)-3,4-dichloro-N-methyl-N-[7-(1-pyrrolidinyl)-1,4-dioxaspiro[4.5]-dec-6-y]benzeneacetamide, monohydrochloride | Cl.ClC=1C=C(C=CC1Cl)CC(=O)N([C@@H]1C2(OCCO2)CCC[C@H]1N1CCCC1)C | InChI=1S/C21H28Cl2N2O3.ClH/c1-24(19(26)14-15-6-7-16(22)17(23)13-15)20-18(25-9-2-3-10-25)5-4-8-21(20)27-11-12-28-21;/h6-7,13,18,20H,2-5,8-12,14H2,1H3;1H/t18-,20+;/m1./s1
